US04435405
A 1 M-solution of tetra-n-butylammonium fluoride in tetrahydrofuran (12 ml.) was added to a solution of 2-{trans-2-[2-(trimethylsilyl)ethoxycarbonylamino]-cyclopropylthio}-3-phenylquinoline (3.5 g.) in dry acetonitrile (35 ml.), and the mixture was stirred at 50° under argon for 5 hr. The mixture was cooled, the solvent was evaporated, and the residual oil was partitioned between ethyl acetate (70 ml.) and water (35 ml.). The mixture was separated and the organic phase was washed with water (2×30 ml.) and dried (Na2SO4). The solvent was evaporated and the residual brown oil (2.7 g.) was chromatographed on basic alumina (180 gm., Brockmann, Grade III) eluted with 30% v/v chloroform in petroleum ether to give 2-(trans-2-aminocyclopropylthio)-3-phenylquinoline as a pale yellow oil, which gave a hydrochloride of m.p. 140°.

reactant | tetra-n-butylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 2-{trans-2-[2-(trimethylsilyl)ethoxycarbonylamino]-cyclopropylthio}-3-phenylquinoline | 3.5 g | C[Si](CCOC(=O)N[C@H]1[C@@H](C1)SC1=NC2=CC=CC=C2C=C1C1=CC=CC=C1)(C)C | C24H28N2O2SSi
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | acetonitrile | 35 ml | C(C)#N | C2H3N
product | 2-(trans-2-aminocyclopropylthio)-3-phenylquinoline | N[C@H]1[C@@H](C1)SC1=NC2=CC=CC=C2C=C1C1=CC=CC=C1 | C18H16N2S
